US08258134B2
A solution of 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-3-nitro-1H-pyrazole (500 mg, 1.80 mmol) in ethyl acetate (15 mL) and methanol (15 mL) was treated with 10% palladium on activated carbon (wet, 50 mg) The flask was charged with hydrogen gas via balloon. The reaction stirred at 25° C. for 16 h. The reaction was then filtered through a plug of silica gel (Merck, 60, 40-63 μm) layered with diatomaceous earth and concentrated in vacuo to afford 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-ylamine (391 mg, 90%) as a yellow oil. 1H-NMR (400 MHz, DMSO-d6) δ 0.00 (6H, s), 0.83 (9H, s), 3.78 (2H, t, J=4.8 Hz), 3.87 (2H, t, J=6.0 Hz), 4.48 (2H, s), 5.33 (1H, d, J=2.0 Hz), 7.22 (1H, d, J=2.0 Hz).

reactant | 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-3-nitro-1H-pyrazole | 1.80 mmol, 500 mg | C(C)(C)(C)[Si](OCCN1N=C(C=C1)[N+](=O)[O-])(C)C | C11H21N3O3Si
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
product | 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-1H-pyrazol-3-ylamine | 391 mg, 90% | C(C)(C)(C)[Si](OCCN1N=C(C=C1)N)(C)C | C11H23N3OSi
